Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.80459692992
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1],4.22132905461
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.54593177752
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:8]([H:9])[H:10],4.85588080487
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],3.32334315217
[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.04676499041
[C:5]([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.29092808178
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:4],1.7570401813799998
[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])[C:8][C:9]1([H:10])[H:11]>>[H:1][C:2]#[C:3][C:8]([H:5])[C:9]([C:4]#[C:6][H:7])([H:10])[H:11],-0.6909648583110001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],1.3622596647799998
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-8.38713405
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9],4.83587457479
[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.44652886309
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.81626192442
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8],-4.6825412792400005
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[O:11][H:12].[H:7],4.95958246224
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:6],4.86113040783
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-1.08886590771
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[O:4],0.5959251500020001
[H:1][O:2][C:3]1=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13].[H:4]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-2.650370337
[H:5].[O:1]=[C:2]([H:3])[C:4]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12],-1.87094566341
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.08837901509
[H:1][C:2]#[C:3][O:4][C:5][O:7][H:8].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8],-2.92118297636
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][H:10],-2.90998775573
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:10]([H:11])[H:12].[O:8][H:9],6.13793825987
[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9].[H:10],5.0303612706
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[O:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],1.52269349292
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9].[H:10],3.73098745519
[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[O:1][C:2][C:3],4.98395812438
